data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_201582_1,[C:1](/[C:4]([N:6]([H:12])[H:13])=[N:7]\[C:3]([N:2]([N:5]([H:10])[H:11])[H:9])=[N:8]\[H:14])([H:15])([H:16])[H:17]>>[C:1]([C@:4]([N:2]([N:5]([H:10])[H:11])[H:9])([N:6]([H:12])[H:13])[N:7][C:3][N:8][H:14])([H:15])([H:16])[H:17],49.36291500003463
MR_572244_0,[C:1]([N:2]([O:5][H:8])[H:11])(/[C:3](=[C:4](/[O:7][H:10])[H:14])[O:6][H:9])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:2]([H:11])[C:3]1([C:4]([O:5][H:8])([O:7][H:10])[H:14])[O:6][H:9],67.23913499998744
MR_434667_1,[C@:1](/[C:2]([N:4]([H:13])[H:14])=[C:5](/[O:7][H:9])[H:15])([N:3]([H:11])[H:12])([O:6][H:8])[H:10]>>[C@@:1]1([N:3]([H:11])[H:12])([H:10])[C@:2]([N:4]([H:13])[H:14])([O:6][H:8])[C@:5]1([O:7][H:9])[H:15],56.66325000000839
MR_354476_2,[C:1]([C:2]([N:7]([H:13])[H:14])([N:8]([H:15])[H:16])[H:10])([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[C:5]([N:6]([H:11])[H:12])=[O:9]>>[C:1](/[C:2](=[N:7]/[H:14])[N:8]([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[C:5]([N:6]([H:11])[H:12])([O:9][H:13])[H:10],61.88091249999701
MR_591446_1,[C:1]([C:4]([C:2]([H:12])([H:16])[H:17])=[N:8]/[C:3]([N:5]([H:10])[H:11])=[N:7]/[O:6][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([C:2]([H:12])([H:16])[H:17])[N:7]([O:6][H:9])[C:3]([N:5]([H:10])[H:11])=[N:8]1)([H:13])([H:14])[H:15],32.51077499999312
MR_405972_2,[C:1]1([C:3]([O:6][H:9])=[O:7])([O:5][H:8])[C:2]([H:10])([H:11])[O:4]1>>[C:1]([C:2](=[O:4])[H:11])([C:3]([O:6][H:9])=[O:7])([O:5][H:8])[H:10],47.98304250002289
MR_33641_0,[C:1]([C:5]([N:4]([C:7](=[C:6]([C:2]([H:14])([H:15])[H:18])[C:3]([H:16])([H:17])[H:19])[H:10])[H:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:5]([C:6]([C:2]([H:14])([H:15])[H:18])([C:3]([H:16])([H:17])[H:19])/[C:7](=[N:4]/[H:9])[H:10])=[O:8])([H:11])([H:12])[H:13],70.91816749997278
MR_565607_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]([N:6]([H:11])[H:12])=[O:9])/[C:5]([O:7][H:10])=[N:8]\[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:4]([N:6]([H:11])[H:12])[O:9]/[C:5]([O:7][H:10])=[N:8]\[H:13],69.13167499998892
MR_676512_0,[N:1]([C:3](=[C:2]([O:5][H:10])[O:6][H:9])[O:7][H:11])([O:4][H:8])[H:12]>>[N:1](=[C:3](/[C:2]([O:5][H:10])([O:6][H:9])[H:12])[O:7][H:11])\[O:4][H:8],55.2275299999593
MR_204468_0,[C:1]1([H:11])([H:12])[C:4]([N:7]([H:9])[H:10])=[C:8]([H:13])[C:6]([C:3]([H:17])([H:18])[H:19])=[C:5]1[C:2]([H:14])([H:15])[H:16]>>[C:1]1([H:11])([H:12])[C:4]2([N:7]([H:9])[H:10])[C:5]1([C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])=[C:8]2[H:13],66.98436999998862
MR_30123_0,[C:1]([C:2](/[N:7]=[C:6](\[C:4]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([N:5]([H:9])[H:10])[H:8]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([N:5]([H:9])[H:10])[C:2]([H:11])([H:12])[N:7]1[C:6]([C:4]([H:17])([H:18])[H:19])([H:8])[H:13],64.43044499998052
MR_221942_0,[C:1]1([N:3]([H:9])[H:10])([H:8])[C:2]([N:4]([H:11])[H:12])([C:5](=[C:6]([H:14])[H:15])[H:13])[O:7]1>>[C:1]([C:2]([C:5](=[C:6]([H:14])[H:15])[H:13])=[O:7])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[H:8],29.639962500000365
MR_42456_1,[C:1]([N:2]([O:4][H:6])[H:7])([C:3](=[O:5])[H:10])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[N:2]([O:4][H:6])[C:3]1([O:5][H:7])[H:10],62.17897499995786
MR_480930_1,[C:1]1(/[C:3]([C:2]([H:10])([H:11])[H:12])=[N:6]\[H:8])([H:7])[C:4]([H:9])=[N:5]1>>[C:1]1([H:7])([H:9])[C:4](/[C:3]([C:2]([H:10])([H:11])[H:12])=[N:6]\[H:8])=[N:5]1,41.80342250003747
MR_331192_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:5](=[C:7](/[C:4]([H:20])([H:21])[H:22])[H:13])[O:9][H:10])[O:8][N:6]([H:11])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:5]([C:7]([C:4]([H:20])([H:21])[H:22])([O:8][N:6]([H:11])[H:12])[H:13])[O:9][H:10],49.14203500002159
MR_558697_0,[C:1]1([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[C:2]([H:17])([H:18])/[C:7](=[N:8]\[H:16])[C:3]1([N:6]([H:14])[H:15])[O:9][H:19]>>[C:1]([C:2](/[C:7](=[N:8]\[H:16])[H:19])([H:17])[H:18])([C:3]([N:6]([H:14])[H:15])=[O:9])([N:4]([H:10])[H:11])[N:5]([H:12])[H:13],51.28933999998623
MR_481701_1,[C:1]([C:2]([O:7][H:12])=[O:8])([C:3]([N:4]([H:13])[H:14])=[O:9])([O:5][H:10])[O:6][H:11]>>[C:1](=[C:3]([N:4]([H:13])[H:14])[O:9][C:2]([O:7][H:12])=[O:8])([O:5][H:10])[O:6][H:11],68.96852499993713
MR_510701_2,[C:1]([C:3]([C:5](=[O:8])[H:12])=[O:7])([N:4]([H:10])[H:11])([O:6][C:2]([H:13])([H:14])[H:15])[H:9]>>[C:1](\[C:3]([C:5]([O:6][C:2]([H:13])([H:14])[H:15])([O:8][H:11])[H:12])=[O:7])(=[N:4]/[H:10])[H:9],32.95504500001286
MR_363883_2,[c:1]1([N:2]([H:7])[H:8])[c:4]([H:10])[o:5][c:3]([H:9])[n:6]1>>[C@@:1]1([N:2]([H:7])[H:8])([C:4](=[O:5])[H:10])[C:3]([H:9])[N:6]1,48.8213824999751
MR_480774_2,[C:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[H:8])(/[C:5](=[N:6]/[C:2]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:4]([C:3]([H:15])([H:16])[H:17])([N:7]([H:8])[H:13])[C:5]1([N:6]=[C:2]([H:12])[H:14])[H:11],57.77769000001257
